US05629293
b) Methyl (S)-2-amino-3-(3,5-dimethyl-4-isoxazolyl)propionate
A mixture of (2R,5S)-2,5-dihydro-3,6-dimethoxy-2-isopropyl-5-(3,5-dimethyl-4-isoxazolylmethyl)pyrazine (2 g, 6.8 mmol), 1.0M HCl (13.6 ml, 13.6 mmol) and dioxane (13.6 ml) was stirred at ambient temperature overnight under N2. Dioxane was removed under reduced pressure and the water phase extracted with diethyl ether (20 ml). Aqueous ammonia was added to the water phase until pH 9, extracted with CHCl3 (3×30 ml), dried (MgSO4) and the solvent removed under reduced pressure. The valine methyl ester was removed by bulb-to-bulb distillation at 40°-50° C. (0.05 mbar). The undistilled title compound was used without further purification.

reactant | (2R,5S)-2,5-dihydro-3,6-dimethoxy-2-isopropyl-5-(3,5-dimethyl-4-isoxazolylmethyl)pyrazine | 6.8 mmol, 2 g | COC=1[C@H](N=C([C@@H](N1)CC=1C(=NOC1C)C)OC)C(C)C | C15H23N3O3
reactant | HCl | 13.6 mmol, 1.0M, 13.6 ml | Cl | ClH
reactant | dioxane | 13.6 ml | O1CCOCC1 | C4H8O2
product | Methyl (S)-2-amino-3-(3,5-dimethyl-4-isoxazolyl)propionate | N[C@H](C(=O)OC)CC=1C(=NOC1C)C | C9H14N2O3
